SKY130 5T OTA AC Testbench

* ============================================================
* PDK
* ============================================================

.lib "/public/home/202411094934/python_project/pdk/sky130A/libs.tech/ngspice/sky130.lib.spice" tt


* ============================================================
* DUT / Parameters
* ============================================================

.include "five_t_ota.sp"
.include "ota_params.sp"
.include "sim_params.sp"


* ============================================================
* Supply / Bias
* ============================================================

VDD_SRC VDD 0 DC {VDD_VAL}
VBIAS_SRC VBIAS 0 DC {VBIAS_VAL}


* ============================================================
* Differential AC excitation
*
* VINP = +0.5
* VINN = -0.5
*
* Therefore differential AC input magnitude = 1 V.
* ============================================================

VINP_SRC INP 0 DC {VCM_VAL} AC 0.5 0
VINN_SRC INN 0 DC {VCM_VAL} AC 0.5 180


* ============================================================
* DUT
* ============================================================

XOTA INP INN OUT VDD 0 VBIAS FIVE_T_OTA
+ WIN={WIN_VAL}
+ LIN={LIN_VAL}
+ WLOAD={WLOAD_VAL}
+ LLOAD={LLOAD_VAL}
+ WTAIL={WTAIL_VAL}
+ LTAIL={LTAIL_VAL}


* ============================================================
* Load
* ============================================================

CLOAD OUT 0 {CL_VAL}


* ============================================================
* AC Analysis
* ============================================================

.ac dec 100 1 1G


.control

run

set wr_singlescale
set wr_vecnames
option numdgt=15


* ============================================================
* Derived vectors
* ============================================================

let gain_db = db(v(OUT))

* phase() is rad -> convert to degree explicitly
let phase_deg = 180/pi*phase(v(OUT))


* ============================================================
* DC / Low-frequency Gain
* ============================================================

meas ac dc_gain_db FIND gain_db AT=1


* ============================================================
* GBW
*
* First falling crossing through 0 dB
* ============================================================

meas ac gbw_hz WHEN gain_db=0 FALL=1


* ============================================================
* Phase at GBW
* ============================================================

meas ac phase_at_gbw_deg FIND phase_deg WHEN gain_db=0 FALL=1


* ============================================================
* Phase Margin
* ============================================================

let phase_margin_deg = 180 + phase_at_gbw_deg


echo ========================================
echo AC PERFORMANCE
echo ========================================

print dc_gain_db
print gbw_hz
print phase_at_gbw_deg
print phase_margin_deg


* ============================================================
* Save full response
* ============================================================

wrdata ac_response.txt gain_db phase_deg


quit

.endc

.end