SKY130 5T OTA CMRR Testbench

* ============================================================
* PDK
* ============================================================

.lib "/public/home/202411094934/python_project/pdk/sky130A/libs.tech/ngspice/sky130.lib.spice" tt


.include "five_t_ota.sp"
.include "ota_params.sp"
.include "sim_params.sp"


* ============================================================
* Shared Bias
* ============================================================

VBIAS_SRC VBIAS 0 DC {VBIAS_VAL}


* ============================================================
* DUT 1: Differential Gain
* ============================================================

VDD_DIFF VDD_DIFF 0 DC {VDD_VAL}

VINP_DIFF INP_DIFF 0 DC {VCM_VAL} AC 0.5 0
VINN_DIFF INN_DIFF 0 DC {VCM_VAL} AC 0.5 180


XOTA_DIFF INP_DIFF INN_DIFF OUT_DIFF VDD_DIFF 0 VBIAS FIVE_T_OTA
+ WIN={WIN_VAL}
+ LIN={LIN_VAL}
+ WLOAD={WLOAD_VAL}
+ LLOAD={LLOAD_VAL}
+ WTAIL={WTAIL_VAL}
+ LTAIL={LTAIL_VAL}


CLOAD_DIFF OUT_DIFF 0 {CL_VAL}


* ============================================================
* DUT 2: Common-Mode Gain
*
* Both inputs receive exactly the same AC signal.
*
* Vcm(ac) = 1 V
* Vid(ac) = 0 V
* ============================================================

VDD_CM VDD_CM 0 DC {VDD_VAL}

VINP_CM INP_CM 0 DC {VCM_VAL} AC 1 0
VINN_CM INN_CM 0 DC {VCM_VAL} AC 1 0


XOTA_CM INP_CM INN_CM OUT_CM VDD_CM 0 VBIAS FIVE_T_OTA
+ WIN={WIN_VAL}
+ LIN={LIN_VAL}
+ WLOAD={WLOAD_VAL}
+ LLOAD={LLOAD_VAL}
+ WTAIL={WTAIL_VAL}
+ LTAIL={LTAIL_VAL}


CLOAD_CM OUT_CM 0 {CL_VAL}


* ============================================================
* Analysis
* ============================================================

.ac dec 100 1 1G


.control

run

set wr_singlescale
set wr_vecnames
option numdgt=15


let ad_db = db(v(OUT_DIFF))
let acm_db = db(v(OUT_CM))

let cmrr_curve_db = ad_db - acm_db


* ============================================================
* Low-frequency values at 1 Hz
* ============================================================

meas ac ad_dc_db FIND ad_db AT=1

meas ac acm_dc_db FIND acm_db AT=1

meas ac cmrr_db FIND cmrr_curve_db AT=1


echo ========================================
echo CMRR
echo ========================================

print ad_dc_db
print acm_dc_db
print cmrr_db


wrdata cmrr_response.txt ad_db acm_db cmrr_curve_db


quit

.endc

.end