SKY130 5T OTA Operating Point Testbench


* ============================================================
* SKY130 Model
* ============================================================

.lib "/public/home/202411094934/python_project/pdk/sky130A/libs.tech/ngspice/sky130.lib.spice" tt


* ============================================================
* Include DUT and Parameters
* ============================================================

.include "five_t_ota.sp"
.include "ota_params.sp"
.include "sim_params.sp"


* ============================================================
* Supply
* ============================================================

VDD_SRC VDD 0 DC {VDD_VAL}

VBIAS_SRC VBIAS 0 DC {VBIAS_VAL}


* ============================================================
* Inputs
* ============================================================

VINP_SRC INP 0 DC {VCM_VAL}

VINN_SRC INN 0 DC {VCM_VAL}


* ============================================================
* DUT
* ============================================================

XOTA INP INN OUT VDD 0 VBIAS FIVE_T_OTA
+ WIN={WIN_VAL}
+ LIN={LIN_VAL}
+ WLOAD={WLOAD_VAL}
+ LLOAD={LLOAD_VAL}
+ WTAIL={WTAIL_VAL}
+ LTAIL={LTAIL_VAL}


* ============================================================
* Load
* ============================================================

CLOAD OUT 0 {CL_VAL}


* ============================================================
* Operating Point Analysis
* ============================================================

.op


.control

run

set wr_singlescale
set wr_vecnames
option numdgt=15


echo
echo ========================================
echo OTA OPERATING POINT
echo ========================================


print v(INP)
print v(INN)
print v(OUT)
print v(VBIAS)


* Supply current
let idd_a = -i(VDD_SRC)

let idd_ua = idd_a * 1e6


print idd_a
print idd_ua


wrdata op_result.txt v(INP) v(INN) v(OUT) idd_ua


quit

.endc


.end