SKY130 5T OTA PMRR+ Testbench

* ============================================================
* PDK
* ============================================================

.lib "/public/home/202411094934/python_project/pdk/sky130A/libs.tech/ngspice/sky130.lib.spice" tt


.include "five_t_ota.sp"
.include "ota_params.sp"
.include "sim_params.sp"


* ============================================================
* Shared Bias
* ============================================================

VBIAS_SRC VBIAS 0 DC {VBIAS_VAL}


* ============================================================
* DUT 1: Differential Gain Reference
* ============================================================

VDD_DIFF VDD_DIFF 0 DC {VDD_VAL}

VINP_DIFF INP_DIFF 0 DC {VCM_VAL} AC 0.5 0
VINN_DIFF INN_DIFF 0 DC {VCM_VAL} AC 0.5 180


XOTA_DIFF INP_DIFF INN_DIFF OUT_DIFF VDD_DIFF 0 VBIAS FIVE_T_OTA
+ WIN={WIN_VAL}
+ LIN={LIN_VAL}
+ WLOAD={WLOAD_VAL}
+ LLOAD={LLOAD_VAL}
+ WTAIL={WTAIL_VAL}
+ LTAIL={LTAIL_VAL}


CLOAD_DIFF OUT_DIFF 0 {CL_VAL}


* ============================================================
* DUT 2: Positive Supply Ripple
*
* VDD AC magnitude = 1 V
*
* Input differential AC = 0
* ============================================================

VDD_PMRR VDD_PMRR 0 DC {VDD_VAL} AC 1 0

VINP_PMRR INP_PMRR 0 DC {VCM_VAL}
VINN_PMRR INN_PMRR 0 DC {VCM_VAL}


XOTA_PMRR INP_PMRR INN_PMRR OUT_PMRR VDD_PMRR 0 VBIAS FIVE_T_OTA
+ WIN={WIN_VAL}
+ LIN={LIN_VAL}
+ WLOAD={WLOAD_VAL}
+ LLOAD={LLOAD_VAL}
+ WTAIL={WTAIL_VAL}
+ LTAIL={LTAIL_VAL}


CLOAD_PMRR OUT_PMRR 0 {CL_VAL}


* ============================================================
* AC Analysis
* ============================================================

.ac dec 100 1 1G


.control

run

set wr_singlescale
set wr_vecnames
option numdgt=15


let ad_db = db(v(OUT_DIFF))

let avdd_db = db(v(OUT_PMRR))

let pmrr_curve_db = ad_db - avdd_db


* ============================================================
* Low-frequency PMRR
* ============================================================

meas ac ad_dc_db FIND ad_db AT=1

meas ac avdd_dc_db FIND avdd_db AT=1

meas ac pmrr_db FIND pmrr_curve_db AT=1


echo ========================================
echo PMRR+
echo ========================================

print ad_dc_db
print avdd_dc_db
print pmrr_db


wrdata pmrr_response.txt ad_db avdd_db pmrr_curve_db


quit

.endc

.end