SKY130 5T OTA Static Power Testbench

* ============================================================
* PDK
* ============================================================

.lib "/public/home/202411094934/python_project/pdk/sky130A/libs.tech/ngspice/sky130.lib.spice" tt


.include "five_t_ota.sp"
.include "ota_params.sp"
.include "sim_params.sp"


* ============================================================
* Supply / Bias
* ============================================================

VDD_SRC VDD 0 DC {VDD_VAL}

VBIAS_SRC VBIAS 0 DC {VBIAS_VAL}


* ============================================================
* Inputs
*
* Zero differential input
* ============================================================

VINP_SRC INP 0 DC {VCM_VAL}

VINN_SRC INN 0 DC {VCM_VAL}


* ============================================================
* DUT
* ============================================================

XOTA INP INN OUT VDD 0 VBIAS FIVE_T_OTA
+ WIN={WIN_VAL}
+ LIN={LIN_VAL}
+ WLOAD={WLOAD_VAL}
+ LLOAD={LLOAD_VAL}
+ WTAIL={WTAIL_VAL}
+ LTAIL={LTAIL_VAL}


CLOAD OUT 0 {CL_VAL}


* ============================================================
* Operating Point
* ============================================================

.op


.control

run

set wr_vecnames
option numdgt=15


* ============================================================
* Supply Current
*
* ngspice defines current through an independent voltage
* source from its + terminal to its - terminal.
*
* Therefore a power-supplying VDD source normally has
* negative i(VDD_SRC).
* ============================================================

let idd_a = -i(VDD_SRC)

let idd_ua = idd_a*1e6


* ============================================================
* Static Power
* ============================================================

let power_w = idd_a*v(VDD)

let power_uw = power_w*1e6


echo ========================================
echo STATIC POWER
echo ========================================

print idd_a
print idd_ua

print power_w
print power_uw


wrdata power_result.txt idd_ua power_uw


quit

.endc

.end