SKY130 5T OTA Slew Rate Testbench

* ============================================================
* PDK
* ============================================================

.lib "/public/home/202411094934/python_project/pdk/sky130A/libs.tech/ngspice/sky130.lib.spice" tt


.include "five_t_ota.sp"
.include "ota_params.sp"
.include "sim_params.sp"


* ============================================================
* Supply / Bias
* ============================================================

VDD_SRC VDD 0 DC {VDD_VAL}

VBIAS_SRC VBIAS 0 DC {VBIAS_VAL}


* ============================================================
* Input Pulse
*
* 0.7 V -> 1.1 V
*
* Rising edge at 1 us
* Falling edge at approximately 5 us
* ============================================================

VIN_SRC IN 0 PULSE(0.7 1.1 1u 1n 1n 4u 10u)


* ============================================================
* DUT
*
* Unity-gain follower:
*
* VINP = IN
* VINN = OUT
* ============================================================

XOTA IN OUT OUT VDD 0 VBIAS FIVE_T_OTA
+ WIN={WIN_VAL}
+ LIN={LIN_VAL}
+ WLOAD={WLOAD_VAL}
+ LLOAD={LLOAD_VAL}
+ WTAIL={WTAIL_VAL}
+ LTAIL={LTAIL_VAL}


CLOAD OUT 0 {CL_VAL}


* ============================================================
* Transient Analysis
* ============================================================

.tran 1n 12u


.control

run

set wr_singlescale
set wr_vecnames
option numdgt=15


* ============================================================
* Positive transition
*
* 10% -> 90%
* ============================================================

meas tran rise_10_90 TRIG v(OUT) VAL=0.74 RISE=1 TD=0.9u TARG v(OUT) VAL=1.06 RISE=1


* ============================================================
* Negative transition
*
* 90% -> 10%
* ============================================================

meas tran fall_90_10 TRIG v(OUT) VAL=1.06 FALL=1 TD=4.9u TARG v(OUT) VAL=0.74 FALL=1


* ============================================================
* Slew Rate
*
* Time is seconds.
*
* SR [V/us] = DeltaV / DeltaT / 1e6
* ============================================================

let positive_slewrate_v_us = 0.32/rise_10_90/1e6

let negative_slewrate_v_us = 0.32/fall_90_10/1e6


echo ========================================
echo SLEW RATE
echo ========================================

print rise_10_90
print fall_90_10

print positive_slewrate_v_us
print negative_slewrate_v_us


wrdata slew_response.txt v(IN) v(OUT)


quit

.endc

.end